US06608203B2
1-(4-Chloro-phenyl)-2-phenyl-1,2,3,4-tetrahydroisoquinolin-6-ol
The title compound was prepared by analogy to Example 48 except that 1-(4-chloro-phenyl)-6-methoxy-2-phenyl-1,2,3,4-tetrahydroisoquinoline was used instead of 6-methoxy-1-(4-methoxy-phenyl)-2-phenyl-1,2,3,4-tetrahydroisoquinoline, and neat CH2Cl2 to 10% MeOH/CH2Cl2 was used as eluent for flash chromatography purification.

reactant | 1-(4-chloro-phenyl)-6-methoxy-2-phenyl-1,2,3,4-tetrahydroisoquinoline | ClC1=CC=C(C=C1)C1N(CCC2=CC(=CC=C12)OC)C1=CC=CC=C1 | C22H20ClNO
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | 1-(4-Chloro-phenyl)-2-phenyl-1,2,3,4-tetrahydroisoquinolin-6-ol | ClC1=CC=C(C=C1)C1N(CCC2=CC(=CC=C12)O)C1=CC=CC=C1 | C21H18ClNO
